US04140775
In the manner given in Example 1C, 1-(m-methoxyphenyl)-4-[(4-aminophenyl)methyl]piperazine and 4-chloro-7-(trifluoromethyl)quinoline are reacted together at reflux to give 4-[[4-[[4-(m-methoxyphenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline.

reactant | 1-(m-methoxyphenyl)-4-[(4-aminophenyl)methyl]piperazine | COC=1C=C(C=CC1)N1CCN(CC1)CC1=CC=C(C=C1)N | C18H23N3O
reactant | 4-chloro-7-(trifluoromethyl)quinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
product | 4-[[4-[[4-(m-methoxyphenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline | COC=1C=C(C=CC1)N1CCN(CC1)CC1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C28H27F3N4O
